* NGSPICE file created from FULL_ADDER_XORED.ext - technology: sky130B

.subckt nmos_2shared_W200-L015-F1 a_63_n200# a_n63_n226# a_n33_n200# a_33_n226# a_n125_n200#
+ VSUBS
X0 a_n33_n200# a_n63_n226# a_n125_n200# VSUBS sky130_fd_pr__nfet_01v8 ad=0.33 pd=2.33 as=0.62 ps=4.62 w=2 l=0.15
X1 a_63_n200# a_33_n226# a_n33_n200# VSUBS sky130_fd_pr__nfet_01v8 ad=0.62 pd=4.62 as=0.33 ps=2.33 w=2 l=0.15
.ends

.subckt pmos_p2-w321-L015-f3 a_n317_n107# w_n353_n143# a_n225_n107# a_33_n138# a_n255_n138#
X0 a_n225_n107# a_33_n138# a_n317_n107# w_n353_n143# sky130_fd_pr__pfet_01v8 ad=0.17655 pd=1.4 as=0.17655 ps=1.4 w=1.07 l=0.15
X1 a_n225_n107# a_n255_n138# a_n317_n107# w_n353_n143# sky130_fd_pr__pfet_01v8 ad=0.17655 pd=1.4 as=0.3317 ps=2.76 w=1.07 l=0.15
X2 a_n317_n107# a_33_n138# a_n225_n107# w_n353_n143# sky130_fd_pr__pfet_01v8 ad=0.17655 pd=1.4 as=0.17655 ps=1.4 w=1.07 l=0.15
X3 a_n317_n107# a_n255_n138# a_n225_n107# w_n353_n143# sky130_fd_pr__pfet_01v8 ad=0.17655 pd=1.4 as=0.17655 ps=1.4 w=1.07 l=0.15
X4 a_n225_n107# a_n255_n138# a_n317_n107# w_n353_n143# sky130_fd_pr__pfet_01v8 ad=0.17655 pd=1.4 as=0.17655 ps=1.4 w=1.07 l=0.15
X5 a_n317_n107# a_33_n138# a_n225_n107# w_n353_n143# sky130_fd_pr__pfet_01v8 ad=0.3317 pd=2.76 as=0.17655 ps=1.4 w=1.07 l=0.15
.ends

.subckt NAND2 A B VSS VDD Y
Xnmos_2shared_W200-L015-F1_0 VSS B a_994_146# A Y VSS nmos_2shared_W200-L015-F1
Xpmos_p2-w321-L015-f3_0 VDD VDD Y B A pmos_p2-w321-L015-f3
.ends

.subckt XOR2 A B VSS VDD Y a_99_341#
X0 VDD A a_129_987# VDD sky130_fd_pr__pfet_01v8 ad=0.45375 pd=3.08 as=0.45375 ps=3.08 w=2.75 l=0.15
X1 a_129_987# A VDD VDD sky130_fd_pr__pfet_01v8 ad=0.45375 pd=3.08 as=0.45375 ps=3.08 w=2.75 l=0.15
X2 a_129_987# a_n51_367# Y VDD sky130_fd_pr__pfet_01v8 ad=0.45375 pd=3.08 as=0.45375 ps=3.08 w=2.75 l=0.15
X3 Y a_99_341# a_129_987# VDD sky130_fd_pr__pfet_01v8 ad=0.45375 pd=3.08 as=0.45375 ps=3.08 w=2.75 l=0.15
X4 Y a_n51_367# a_129_987# VDD sky130_fd_pr__pfet_01v8 ad=0.45375 pd=3.08 as=0.45375 ps=3.08 w=2.75 l=0.15
X5 Y a_n51_367# a_129_987# VDD sky130_fd_pr__pfet_01v8 ad=0.45375 pd=3.08 as=0.45375 ps=3.08 w=2.75 l=0.15
X6 a_129_987# a_99_341# Y VDD sky130_fd_pr__pfet_01v8 ad=0.45375 pd=3.08 as=0.45375 ps=3.08 w=2.75 l=0.15
X7 a_129_987# a_99_341# Y VDD sky130_fd_pr__pfet_01v8 ad=0.45375 pd=3.08 as=0.45375 ps=3.08 w=2.75 l=0.15
X8 VDD B a_129_987# VDD sky130_fd_pr__pfet_01v8 ad=0.45375 pd=3.08 as=0.45375 ps=3.08 w=2.75 l=0.15
X9 a_129_367# a_99_341# VSS VSS sky130_fd_pr__nfet_01v8 ad=0.10725 pd=0.98 as=0.10075 ps=0.96 w=0.65 l=0.15
X10 a_99_341# B VSS VSS sky130_fd_pr__nfet_01v8 ad=0.1885 pd=1.88 as=0.10075 ps=0.96 w=0.65 l=0.15
X11 a_129_987# B VDD VDD sky130_fd_pr__pfet_01v8 ad=0.45375 pd=3.08 as=0.45375 ps=3.08 w=2.75 l=0.15
X12 VDD B a_129_987# VDD sky130_fd_pr__pfet_01v8 ad=0.42625 pd=3.06 as=0.45375 ps=3.08 w=2.75 l=0.15
X13 VSS A a_n51_367# VSS sky130_fd_pr__nfet_01v8 ad=0.10075 pd=0.96 as=0.1885 ps=1.88 w=0.65 l=0.15
X14 a_129_987# A VDD VDD sky130_fd_pr__pfet_01v8 ad=0.45375 pd=3.08 as=0.42625 ps=3.06 w=2.75 l=0.15
X15 a_99_341# B VDD VDD sky130_fd_pr__pfet_01v8 ad=0.7975 pd=6.08 as=0.42625 ps=3.06 w=2.75 l=0.15
X16 VDD A a_n51_367# VDD sky130_fd_pr__pfet_01v8 ad=0.42625 pd=3.06 as=0.7975 ps=6.08 w=2.75 l=0.15
X17 VSS a_99_341# a_129_367# VSS sky130_fd_pr__nfet_01v8 ad=0.10725 pd=0.98 as=0.10725 ps=0.98 w=0.65 l=0.15
X18 a_129_367# a_99_341# VSS VSS sky130_fd_pr__nfet_01v8 ad=0.10725 pd=0.98 as=0.10725 ps=0.98 w=0.65 l=0.15
X19 a_129_367# a_n51_367# Y VSS sky130_fd_pr__nfet_01v8 ad=0.10725 pd=0.98 as=0.10725 ps=0.98 w=0.65 l=0.15
X20 Y A a_705_367# VSS sky130_fd_pr__nfet_01v8 ad=0.10725 pd=0.98 as=0.10725 ps=0.98 w=0.65 l=0.15
X21 Y a_n51_367# a_129_367# VSS sky130_fd_pr__nfet_01v8 ad=0.10725 pd=0.98 as=0.10725 ps=0.98 w=0.65 l=0.15
X22 Y a_n51_367# a_129_367# VSS sky130_fd_pr__nfet_01v8 ad=0.10725 pd=0.98 as=0.10725 ps=0.98 w=0.65 l=0.15
X23 a_705_367# A Y VSS sky130_fd_pr__nfet_01v8 ad=0.10725 pd=0.98 as=0.10725 ps=0.98 w=0.65 l=0.15
X24 a_705_367# A Y VSS sky130_fd_pr__nfet_01v8 ad=0.10725 pd=0.98 as=0.10725 ps=0.98 w=0.65 l=0.15
X25 VSS B a_705_367# VSS sky130_fd_pr__nfet_01v8 ad=0.10725 pd=0.98 as=0.10725 ps=0.98 w=0.65 l=0.15
X26 a_705_367# B VSS VSS sky130_fd_pr__nfet_01v8 ad=0.10725 pd=0.98 as=0.10725 ps=0.98 w=0.65 l=0.15
X27 VSS B a_705_367# VSS sky130_fd_pr__nfet_01v8 ad=0.10075 pd=0.96 as=0.10725 ps=0.98 w=0.65 l=0.15
.ends

.subckt FULL_ADDER_XORED A B K COUT OUT CIN VDD VSS
XNAND2_0 XOR2_2/Y A VSS VDD NAND2_2/B NAND2
XNAND2_1 XOR2_1/A CIN VSS VDD NAND2_2/A NAND2
XNAND2_2 NAND2_2/A NAND2_2/B VSS VDD COUT NAND2
XXOR2_0 XOR2_2/Y A VSS VDD XOR2_1/A li_1358_495# XOR2
XXOR2_1 XOR2_1/A CIN VSS VDD OUT XOR2_1/a_99_341# XOR2
XXOR2_2 B K VSS VDD XOR2_2/Y XOR2_2/a_99_341# XOR2
.ends

